US08735417B2
N-(3-bromo-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)acetamide (150 mg, 0.400 mmol), 2-(trimethylsilyl)-5-(trimethylstannanyl)-1,3-thiazole (141 mg, 0.440 mmol) (prepared using literature procedure: Dondoni, A.; Mastellari, A. R.; Medici, A.; Negrini, E.; Pedrini, P. Synthesis 1986, 9, 757-760) and Pd(Ph3P)4 (46.2 mg, 0.040 mmol) were placed in a nitrogen purged microwave vial. Dioxane (2 mL) was added and the resultant solution was purged for 10 minutes with nitrogen gas. The reaction mixture was heated to 90° C. for 15 h. Note: Under the reaction conditions the TMS group is removed. The reaction mixture was concentrated and directly purified by column chromatography to yield 130 mg of N-[3-(1,3-thiazol-5-yl)-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl]acetamide (0.343 mmol, 86%) as a yellow powder.

reactant | N-(3-bromo-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)acetamide | 0.400 mmol, 150 mg | BrC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)NC(C)=O | C13H10BrF3N4O
reactant | 2-(trimethylsilyl)-5-(trimethylstannanyl)-1,3-thiazole | 0.440 mmol, 141 mg | C[Si](C=1SC(=CN1)[Sn](C)(C)C)(C)C
catalyst | Pd(Ph3P)4 | 0.040 mmol, 46.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-[3-(1,3-thiazol-5-yl)-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl]acetamide | 0.343 mmol, 130 mg, 86% | S1C=NC=C1C=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)NC(C)=O | C16H12F3N5OS
